US08871753B2
Step F: 6-Chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride
A solution of tert-butyl [3-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate (4.70 g, 8.18 mmol) in acetonitrile (750 mL), water (75 mL) and 2-butanol (1.0 mL) was treated with 4.0 M of hydrogen chloride in 1,4-dioxane (7.2 mL, 28.6 mmol) and refluxed for 20 hours. The reaction mixture was concentrated and the tan solid was triturated with dichloromethane and methanol to give the desired product (2.83 g, 84%). LCMS calculated for C18H17ClN5(M+H)+: m/z=338.1. 1H NMR (400 MHz, DMSO-d6): δ 8.37 (s, 1H), 7.89 (s, 1H), 7.79 (s, 1H), 7.59 (m, 1H), 7.43 (m, 3H), 7.36 (d, 1H), 7.17 (m, 2H), 6.91 (dd, 2H), 3.08 (d, 4H).

reactant | tert-butyl [3-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate | 8.18 mmol, 4.70 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)NC1=NC(=NC=C1Cl)Cl)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C28H33Cl2N5O4
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 28.6 mmol, 7.2 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 750 mL | C(C)#N | C2H3N
solvent | water | 75 mL | O | H2O
solvent | 2-butanol | 1.0 mL | CC(CC)O | C4H10O
product | 6-Chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride | 2.83 g, 84% | Cl.Cl.ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)N)C3 | InChI=1S/C18H16ClN5.2ClH/c19-15-10-21-18-23-13-3-1-2-11(8-13)4-5-12-9-14(6-7-16(12)20)22-17(15)24-18;;/h1-3,6-10H,4-5,20H2,(H2,21,22,23,24);2*1H
